US07368267B2
FIG. 9 demonstrates the formation of 3,4-dimethylbenzyl alcohol commenced immediately. The formation of 3,4-dimethylbenzaldehyde commenced after 2 hours. 11 hours after starting the fed-batch culture, another 1% (v/v) of pseudocumene was added. However, only some of this substrate was now converted. The end concentration of 3,4-dimethylbenzylaldehyde was 113 mM. When the biotransformation was stopped, the pseudocumene and 3,4-dimethylbenzyl alcohol concentrations were 65 mM. Virtually no 3,4-dimethylbenzoic acid was produced.

reactant | 3,4-dimethylbenzyl alcohol | CC=1C=C(CO)C=CC1C | C9H12O
reactant | 3,4-dimethylbenzaldehyde | CC=1C=C(C=O)C=CC1C | C9H10O
reactant | pseudocumene | C=1(C)C(C)=CC(C)=CC1 | C9H12
product | 3,4-dimethylbenzoic acid | CC=1C=C(C(=O)O)C=CC1C | C9H10O2
